US04200641
A mixture of 4.9 parts of 1-(3-chloropropyl)-1H-benzimidazole, 5.76 parts of 1-[bis(4-fluorophenyl)methyl]piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed for 20 hours with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from a mixture of 4-methyl-2-pentanone and 2,2'-oxybispropane. The product is filtered off and dried, yielding 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}propyl]-1H-benzimidazole hydrate; mp. 108.4° C.

reactant | 1-(3-chloropropyl)-1H-benzimidazole | ClCCCN1C=NC2=C1C=CC=C2 | C10H11ClN2
reactant | 1-[bis(4-fluorophenyl)methyl]piperazine | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-[3-{4-[bis(4-fluorophenyl)methyl]-1-piperazinyl}propyl]-1H-benzimidazole hydrate | O.FC1=CC=C(C=C1)C(N1CCN(CC1)CCCN1C=NC2=C1C=CC=C2)C2=CC=C(C=C2)F | InChI=1S/C27H28F2N4.H2O/c28-23-10-6-21(7-11-23)27(22-8-12-24(29)13-9-22)32-18-16-31(17-19-32)14-3-15-33-20-30-25-4-1-2-5-26(25)33;/h1-2,4-13,20,27H,3,14-19H2;1H2
